US03950353
Reduction of 3-chloro-5-methyl-2-pyrazinecarboxylic acid (prepared by alkaline hydrolysis of the methyl ester) with diborane gives 3-chloro-2-hydroxymethyl-5-methylpyrazine which, using the above procedure, yields N-methyl-N'-[2-((3-chloro-5-methyl-2-pyrazinyl)methylthio)ethyl]thiourea.

reactant | 3-chloro-5-methyl-2-pyrazinecarboxylic acid | ClC=1C(=NC=C(N1)C)C(=O)O | C6H5ClN2O2
reactant | diborane | B#B | B2
product | 3-chloro-2-hydroxymethyl-5-methylpyrazine | ClC=1C(=NC=C(N1)C)CO | C6H7ClN2O
